US04410527
From 4,9-dihydro-1-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and phosgene in a mixture of dioxane and toluene, 4-chlorocarbonyl-4,9-dihydro-1-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one was obtained, m.p. 235°-236° C. (chloroform);

reactant | 4,9-dihydro-1-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CC=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C12H10N2OS
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chlorocarbonyl-4,9-dihydro-1-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=C(SC2)C | C13H9ClN2O2S
